US08030322B2
Preparation 2: 5-bromo-1-(cyanomethyl)-2,3-dihydro-1H-indene-1-carbonitrile (Prep2)
To a solution of ethyl (2E/Z))-(5-bromo-2,3-dihydro-1H-inden-1-ylidene)(cyano)ethanoate (Prep1, 3.1 g, 10.15 mmol) in ethanol (23 mL) a solution of KCN (1.65 g, 2.5 eq) in water (6 mL) was added and the reaction mixture was warmed to 65° C. and stirred for ˜16-24 h. Then the solvent was removed under reduced pressure, the crude was treated with ether and water. Crystallization from ethanol gave the title compound (1.87 g, y=70%).

reactant | (5-bromo-2,3-dihydro-1H-inden-1-ylidene)(cyano)ethanoate | 10.15 mmol, 3.1 g | BrC=1C=C2CCC(C2=CC1)=C(C(=O)[O-])C#N
reactant | KCN | 1.65 g, 2.5 eq | [C-]#N.[K+]
solvent | ethanol | 23 mL | C(C)O | C2H6O
solvent | water | 6 mL | O | H2O
product | 5-bromo-1-(cyanomethyl)-2,3-dihydro-1H-indene-1-carbonitrile | 1.87 g, 70% | BrC=1C=C2CCC(C2=CC1)(C#N)CC#N | C12H9BrN2
